US05891882
(±)-cis-6-Methoxy-1,2,3,3a,4,9b-hexahydro-[1]-benzopyrano[3,4-c]pyrrole
From 8-methoxy-coumarin and N-methoxymethyl-N-trimethylsilylmethyl-benzylamine in an analogous manner as described in Examples 1A-C.

reactant | 8-methoxy-coumarin | COC=1C=CC=C2C=CC(OC12)=O | C10H8O3
reactant | N-methoxymethyl-N-trimethylsilylmethyl-benzylamine | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
product | (±)-cis-6-Methoxy-1,2,3,3a,4,9b-hexahydro-[1]-benzopyrano[3,4-c]pyrrole | COC1=CC=CC2=C1OC[C@H]1CNC[C@H]12 | C12H15NO2
